* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_3
* Fitness: 0.5000
*
* --- Active Constraints ---
* _comment: Phase 3: 24V to 600V Grid Tie (Boost)
* vin_min: 20
* vin_max: 28
* vout_target: 600
* efficiency_target: 0.95
* power_in: 600
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 85.641573
* efficiency: 0.912402
* total_volume_cm3: 24.563972
* total_components: 4
* ============================

* 24V to 600V boost, 600W
Vin in 0 24
L1 in sw 100u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 600
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end